US05449726
Preparation of 1,2,4-Trimethylenecyclohexane
The system was first purged with nitrogen. The power to the fluidized bed was turned on and its temperature was brought to 450°-470° C. Allene was introduced into the system from the allene cylinder at a rate of 80-100 grams/hour. The allene supply from the cylinder was shut off two to three hours before the end of a dimerization run in order that the allene present in the system could be used up, with little allene remaining in the reservoir a the end. At the end of the day, the power to the fluidized bed was turned off, the system was allowed to cool, and the accumulated crude liquid product was poured into a bottle and weighed. Approximately 3 grams of phenothiazine was added per kilogram of crude liquid product to inhibit polymerization and oxidation of the dimers and trimers. The crude product was then analyzed by gas chromatography for peaks corresponding to two allene dimers, 1,2-dimethylenecyclobutane (1,2-DMCB) and 1,3-dimethylenecyclobutane (1,3-DMCB), and the allene trimer 1,2,4-trimethylenecyclohexane (TMCH). Data from seven hot tube reaction runs are shown in Table 1.

reactant | allene | C=C=C | C3H4
reactant | 1,2-dimethylenecyclobutane | C=C1C(CC1)=C | C6H8
reactant | 1,3-dimethylenecyclobutane | C=C1CC(C1)=C | C6H8
product | 1,2,4-Trimethylenecyclohexane | C=C1C(CC(CC1)=C)=C | C9H12
